data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21](C)[C:22](=[O:23])C(C)Br.[OH-:10]>>[H:20][OH:10].C[CH:21]=[C:22](C(C)Br)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].C[CH:10]=[CH:11]C1=CC=CC=C1>>[H:20][CH:10](C)[CH+:11]C1=CC=CC=C1.[OH2:21] 10,11=10,20;20,21=21
CC1C(C2=C(O1)C(=CC=C2O[Si](C(C)C)(C(C)C)C(C)C)Br)(C)[CH:20]=[O+:21][Ti-](Cl)(Cl)(Cl)Cl.C[Si](C)(C)C[CH:11]=[CH2:10]>>CC1C(C2=C(O1)C(=CC=C2O[Si](C(C)C)(C(C)C)C(C)C)Br)(C)[CH:20]([CH2:10][CH+:11]C[Si](C)(C)C)[O:21][Ti-](Cl)(Cl)(Cl)Cl 10,11=10,20;20,21=21
CN(CC[CH2+:20])C[CH:10]=[CH:11]C[Si](C)(C)C>>CN1CC[CH2:20][CH:10](C1)[CH+:11]C[Si](C)(C)C 10,11=10,20
[H:20][O+:21](C(C)([O-])OC(=O)C)N=C(C)C.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.CC(=N[O:21]C(C)([O-])OC(=O)C)C 10=20;20,21=21
[H:20][O:21]C(CC1=CC=CC=C1)(C2=CC=CC=C2)C(C#N)(C3=CC=CC=C3)O.CC1=CC=C(C=C1)CC(C2=CC=CC=C2)[O-:10]>>[H:20][O:10]C(CC1=CC=C(C=C1)C)C2=CC=CC=C2.C1=CC=C(C=C1)CC(C2=CC=CC=C2)(C(C#N)(C3=CC=CC=C3)O)[O-:21] 10=20;20,21=21
CCCC(C)OCC[S:10]C[CH2:20][Cl:21].CCCC(C)[OH2+].[Cl-]>>CCCC(C)OCC[S+:10]1C[CH2:20]1.[Cl-:21].CCCC(C)[OH2+].[Cl-] 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.CCC[CH:10]=[C:11](C1=C(C=CC(=C1)Br)O)[O-:12].C1CC([N+](=CC2=CC=C(C=C2)[N+](=O)[O-])C1)C3=NN=NN3.O>>[H:20][CH:10](CCC)[C:11](=[O:12])C1=C(C=CC(=C1)Br)O.C(=O)(C(F)(F)F)[O-:21].C1CC([N+](=CC2=CC=C(C=C2)[N+](=O)[O-])C1)C3=NN=NN3.O 10,11=10,20;20,21=21;12=11
CC(C)CC1=C[C:21]2(C[CH2:20]2)[CH:22]=[CH:23][C:24]1=[O+:25]C.C(=[O:10])O.CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC(C)CC1=C[C:21](=[CH:22][CH:23]=[C:24]1[O:25]C)C[CH2:20][O+:10]=CO.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;24,25=25;20,21=21,22;22,23=23,24
CCCC[C:20](C1=C(C=CC(=C1)Br)O)([N:10]2CCCC2C3=NN=NN3)[OH2+:21].C1=CC(=CC=C1C=O)[N+](=O)[O-].C(=O)(C(F)(F)F)[O-]>>CCCC[C:20](=[N+:10]1CCCC1C2=NN=NN2)C3=C(C=CC(=C3)Br)O.[OH2:21].C1=CC(=CC=C1C=O)[N+](=O)[O-].C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
CC1CCC(CC(=C1)[O:10][Zn]I)I.C[Si:20](C)(C)I>>CC1CCC(CC(=C1)[O+:10]([Si-:20](C)(C)(C)I)[Zn]I)I 10=20,
CCC(CO)[NH2:10].C1=CC(=CC=C1[CH2:20][Br:21])C#N>>CCC(CO)[NH2+:10][CH2:20]C1=CC=C(C=C1)C#N.[Br-:21] 10=20;20,21=21
C[CH:20]([N-:10]C)[O:21][AlH2]>>C[CH:20]=[N:10]C.[O-:21][AlH2] 10=20;20,21=21
CC(=O)[O-:10].COC1=CC=C(C=C1)[CH2:20][Cl:21]>>CC(=O)[O:10][CH2:20]C1=CC=C(C=C1)OC.[Cl-:21] 10=20;20,21=21
[B:20](F)(F)F.CSC=[O:10]>>[B-:20]([O+:10]=CSC)(F)(F)F 10=20,
CC1=CC=C(C=C1)S(=O)(=O)OC2=CC=C(C=C2)C(C[CH:11]=[CH2:10])[O+:21]=[CH:20]CCC3=CC=C(C=C3)OCC4=CC=CC=C4.CC(=O)O[Sn-](Br)(Br)(Br)Br>>CC1=CC=C(C=C1)S(=O)(=O)OC2=CC=C(C=C2)C3C[CH+:11][CH2:10][CH:20]([O:21]3)CCC4=CC=C(C=C4)OCC5=CC=CC=C5.CC(=O)O[Sn-](Br)(Br)(Br)Br 10,11=10,20;20,21=21
[H:20][C:21]1([CH+:22]C=CS1)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CS[C:21](=[CH:22]1)[N+](=O)[O-] 10=20;20,21=21,22
C[Si:20](C)(C)C[C+]=C1CC(CC1O[Zn-](Cl)Cl)C2=CC=CC=C2.[Cl-:10]>>C[Si-:20](C)(C)(C[C+]=C1CC(CC1O[Zn-](Cl)Cl)C2=CC=CC=C2)[Cl:10] 10=20,
[H:20][C:21](C)(C)[CH:22](C)[Br:23].CC[O-:10]>>[H:20][O:10]CC.C[CH:22]=[C:21](C)C.[Br-:23] 10=20;22,23=23;20,21=21,22
CCCC1=C(C(=CC=C1SC(CC)(CC)C2(C(=C[P:22]3(=[O+:23]2)OC[CH:20]([O:21]3)C)Cl)C)C)CC.[Cl-:10]>>CCCC1=C(C(=CC=C1SC(CC)(CC)C2(C(=C[P:22](=[O:21])([O:23]2)OC[CH:20](C)[Cl:10])Cl)C)C)CC 10=20;22,23=23;20,21=21,22
CC(=O)NC1C=CC(CC1NC(=O)OC(C)(C)C)O[I:10]2(C3=C(C=CC=C3)C(=O)O2)(OC(=O)C)[O:11]C(=O)C.CC(=O)O>>CC(=O)NC1C=CC(CC1NC(=O)OC(C)(C)C)O[I+:10]2(C3=C(C=CC=C3)C(=O)O2)OC(=O)C.CC(=O)[O-:11].CC(=O)O 10,11=11
[H:20][O+:21](C1CC(CC2=CC3=COC=C3CC12O)(C)C)S(=O)(C4=CC=C(C=C4)C)([N+]5=CC=C(C=C5)N(C)C)[O-].C1=CC=[N:10]C=C1.[Cl-]>>[H:20][N+:10]1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)([N+]2=CC=C(C=C2)N(C)C)([O-])[O:21]C3CC(CC4=CC5=COC=C5CC34O)(C)C.[Cl-] 10=20;20,21=21
C[C:20](=[O:21])C1=C(C=CC=C1)NC(=O)C(CC2=CC=CC=C2)[NH2:10].CC[NH+](CC)CC>>C[C:20]1(C2=C(C=CC=C2)NC(=O)C([NH2+:10]1)CC3=CC=CC=C3)[O-:21].CC[NH+](CC)CC 10=20;20,21=21
CCCCC[CH2:20][O:21][P+:22](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.COCOC1=C(C(=C(C2=C1C=C(C(=C2OC)OC)OC)C3=CC(=C(C=C3)OC)OC)C(=O)OC)C(=O)[O-:10].CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC>>CCCCC[CH2:20][O:10]C(=O)C1=C(C2=C(C(=C1C(=O)OC)C3=CC(=C(C=C3)OC)OC)C(=C(C(=C2)OC)OC)OC)OCOC.C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC 10=20;20,21=21,22
CCCCCCCCC=CCCCCCCC[C:20](=[O:21])[N+]1=CC=C(C=C1)N(C)C.C1=CC=C(C=C1)C[OH:10].CCCCCCCCC=CCCCCCCCC(=O)[O-].CN(C)C1=CC=NC=C1.C1CCC(CC1)NC(=O)NC2CCCCC2>>CCCCCCCCC=CCCCCCCC[C:20]([N+]1=CC=C(C=C1)N(C)C)([O-:21])[OH+:10]CC2=CC=CC=C2.CCCCCCCCC=CCCCCCCCC(=O)[O-].CN(C)C1=CC=NC=C1.C1CCC(CC1)NC(=O)NC2CCCCC2 10=20;20,21=21
COC1=CC2=C(C=C1)C=C(C=C2)C(=O)CC[C:20](=[O:21])C3=CC=CC=C3.[NH3:10].CC(=O)O>>COC1=CC2=C(C=C1)C=C(C=C2)C(=O)CC[C:20](C3=CC=CC=C3)([NH3+:10])[O-:21].CC(=O)O 10=20;20,21=21
C[OH+:21][CH:20](CC1=CC=CC=C1)[OH:10]>>C[OH:21].C1=CC=C(C=C1)C[CH:20]=[OH+:10] 10=20;20,21=21
CC[Si](CC)(C=CC[Si](C)(C)C)OC(CC=[O:10])C1=CC=CC=C1.C[Si:20](C)(C)OS(=O)(=O)C(F)(F)F>>CC[Si](CC)(C=CC[Si](C)(C)C)OC(CC=[O+:10][Si-:20](C)(C)(C)OS(=O)(=O)C(F)(F)F)C1=CC=CC=C1 10=20,
